US04879296
Preparation of (E)-4-(1,2,3,6-tetrahydro-1,3-dimethyl-2,6-dioxo-9H-purin-8-yl)cinnamic acid
5,6-Diamino-1,3-dimethyluracil hydrate (5.11 g, 30.0 mmol) and 4-formylcinnamic acid (5.29 g, 30.0 mmol) were refluxed in nitrobenzene (500 mL). The nitrobenzene was allowed to distill slowly with water formed. Fresh nitrobenzene was added to keep the volume constant. After 5 hours of reflux, the mixture was cooled and the precipitate collected (8.07 g). Recrystallization from N,N-dimethylformamide-water gave the monohydrate of the title compound as a pale yellow powder, identical with that of Example 1 by 1H-NMR and elemental analysis.

reactant | 5,6-Diamino-1,3-dimethyluracil hydrate | 30.0 mmol, 5.11 g | O.NC=1C(N(C(N(C1N)C)=O)C)=O
reactant | 4-formylcinnamic acid | 30.0 mmol, 5.29 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
solvent | nitrobenzene | 500 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (E)-4-(1,2,3,6-tetrahydro-1,3-dimethyl-2,6-dioxo-9H-purin-8-yl)cinnamic acid | CN1C(N(C=2NC(=NC2C1=O)C1=CC=C(/C=C/C(=O)O)C=C1)C)=O | C16H14N4O4
